US07723330B2
Step A: Preparation of 2-amino-N-(3-fluoro-4-methoxyphenyl)benzamide:
To a stirred suspension of isatoic anhydride (1.63 g, 10 mmol) in 15 mL dioxane at room temperature under nitrogen was added powdered sodium hydroxide followed by 3-fluoro-4-methoxyaniline (1.41 g, 10 mmol). The mixture was immersed in a room temperature oil bath and slowly heated to reflux. Carbon dioxide gas evolution was evident. After stirring at reflux for 2 hours, the reaction mixture was cooled to room temperature and inorganics were filtered off with dioxane. The filtrate was concentrated to dryness to a brown solid. The crude product was dissolved in a minimum of hot 95% EtOH and crystals formed upon cooling. The crystals were filtered off and rinsed with a minimum of ice cold 95% EtOH to give a tan solid (1.0 g, 39%). 1H-NMR (400 MHz, CDCl3) δ 7.66 (br s, 1H), 7.50 (dd, 1H), 7.44 (dd, 1H), 7.26 (m, 1H), 7.17 (m, 1H), 6.95 (m, 1H), 6.71 (m, 2H), 5.50 (br s, 2H), 3.89 (s, 3H).

reactant | isatoic anhydride | 10 mmol, 1.63 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3-fluoro-4-methoxyaniline | 10 mmol, 1.41 g | FC=1C=C(N)C=CC1OC | C7H8FNO
reactant | Carbon dioxide | C(=O)=O | CO2
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 2-amino-N-(3-fluoro-4-methoxyphenyl)benzamide | 1.0 g, 39% | NC1=C(C(=O)NC2=CC(=C(C=C2)OC)F)C=CC=C1 | C14H13FN2O2
